US08633173B2
N-Methyl-N-(4-{2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yl}-phenyl)-methanesulfonamide
N-Methyl-N-(4-{2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yl}-phenyl)-methanesulfonamide was prepared from N-[4-(2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-phenyl]-N-methyl-methanesulfonamide (75.0 mg, 0.236 mmol) and 1-(4-bromo-phenyl)-4-methyl-piperazine (70.0 mg, 0.274 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (26.0 mg, 0.0476 mmol) as the ligand in a manner analogous to Step 2d. The title compound was isolated as a tan solid (0.027 g, 23%). MP=205-206° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.41 (d, J=6.5 Hz, 1H), 8.04 (d, J=7.7 Hz, 2H), 7.57-7.46 (m, 5H), 6.99-6.91 (m, 3H), 6.66 (s, 1H), 3.38 (s, 3H), 3.19-3.14 (m, 4H), 2.90 (s, 3H), 2.62-2.57 (m, 4H), 2.36 (s, 3H). MS=492 (MH)+.

reactant | N-[4-(2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-phenyl]-N-methyl-methanesulfonamide | 0.236 mmol, 75.0 mg | NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)N(S(=O)(=O)C)C)=N1 | C14H15N5O2S
reactant | 1-(4-bromo-phenyl)-4-methyl-piperazine | 0.274 mmol, 70.0 mg | BrC1=CC=C(C=C1)N1CCN(CC1)C | C11H15BrN2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0476 mmol, 26.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-(4-{2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yl}-phenyl)-methanesulfonamide | CN(S(=O)(=O)C)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)N2CCN(CC2)C | C25H29N7O2S
